US08202899B2
Step C: Preparation of 2-(5-amino-1-p-tolyl-1H-pyrazol-3-yl)-2-methylpropan-1-ol:
5-hydroxy-4,4-dimethyl-3-oxopentanenitrile (0.32 g, 2.27 mmol) and 1-chloro-2-phenylhydrazine (0.361 g, 2.49 mmol) were combined in ethanol and heated at 90° C. for 8 hours. The reaction was cooled and concentrated, and the residue was triturated with ethyl acetate. The solids were collected by filtration, triturated with acetone and rinsed to isolate 36 mg of the title compound as a pure white solid. MS M+1(246).

reactant | 5-hydroxy-4,4-dimethyl-3-oxopentanenitrile | 2.27 mmol, 0.32 g | OCC(C(CC#N)=O)(C)C | C7H11NO2
reactant | 1-chloro-2-phenylhydrazine | 2.49 mmol, 0.361 g | ClNNC1=CC=CC=C1 | C6H7ClN2
reactant | ethanol | C(C)O | C2H6O
product | 2-(5-amino-1-p-tolyl-1H-pyrazol-3-yl)-2-methylpropan-1-ol | 36 mg | NC1=CC(=NN1C1=CC=C(C=C1)C)C(CO)(C)C | C14H19N3O
